US07723333B2
tert-Butyl 3-(2-amino-2-oxoethyl)azetidine-1-carboxylate
PyBOP (1.946 g, 3.74 mmol) was added to a solution of [1-(tert-Butoxycarbonyl)azetidin-3-yl]acetic acid (0.805 g, 3.74 mmol) in DMF (10 mL). The mixture was stirred in an ice-bath, ammonia gas was bubbled in for 3 mins and then the mixture was stirred at rt overnight. The reaction mixture was concentrated, water (15 mL) and saturated, aqueous NaHCO3 (5 mL) were added, and the mixture was extracted with EtOAc (20 mLx3). The extracts were combined, washed with water (20 mL) and brine (10mL), dried (Na2SO4) and evaporated. Column chromatography of the residue (ISOLUTE SI, 50 g/150 ml), eluting with EtOAc and heptane (50:50), then EtOAc and then MeOH and EtOAc (1:99, 2:98 and 5:95), gave the title compound (0.461 g, 57.5%) as a white solid. 1H NMR (400 MHz, CDCl3): 1.42 (s, 9H), 2.53 (d, 2H), 2.85-2.96 (m, 1H), 3.60 (dd, 2H), 4.09 (t, 2H), 5.78 (s, br, 2H); 13C NMR (100 MHz, CDCl3): 25.4, 28.3, 39.7, 54.3 (br), 79.4, 156.3, 173.2.

reactant | PyBOP | 3.74 mmol, 1.946 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | [1-(tert-Butoxycarbonyl)azetidin-3-yl]acetic acid | 3.74 mmol, 0.805 g | C(C)(C)(C)OC(=O)N1CC(C1)CC(=O)O | C10H17NO4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(2-amino-2-oxoethyl)azetidine-1-carboxylate | 0.461 g, 57.5% | NC(CC1CN(C1)C(=O)OC(C)(C)C)=O | C10H18N2O3
